US07323465B2
n-Propanesulfonic acid [6-(2-hydroxy-ethoxy)-5-p-tolyl-pyrimidin-4-yl]-amide (115.5 mg) was dissolved in THF (10 ml) and sodium hydride (60 mg) was added followed by stirring for 15 min at 50° C. Then 2-methanesulfonyl-5-methoxy-pyrimidine (138 mg) was added and stirring was continued for 8 h at 75° C. The reaction mixture was poured onto ice water, acidified with solid citric acid and extracted with ethyl acetate. The combined organic layers were dried over magnesium sulfate and the solvent was evaporated. The crude material was purified by plate chromatography with diethyl ether to give propane-1-sulfonic acid {6-[2-(5-methoxy-pyrimidin-2-yloxy)-ethoxy]-5-p-tolyl-pyrimidin-4-yl}-amide (61 mg) as a white powder. LC-MS: tR: 4.51, [M+H]+: 460.27.

reactant | n-Propanesulfonic acid [6-(2-hydroxy-ethoxy)-5-p-tolyl-pyrimidin-4-yl]-amide | 115.5 mg | OCCOC1=C(C(=NC=N1)NS(=O)(=O)CCC)C1=CC=C(C=C1)C | C16H21N3O4S
reactant | sodium hydride | 60 mg | [H-].[Na+]
reactant | 2-methanesulfonyl-5-methoxy-pyrimidine | 138 mg | CS(=O)(=O)C1=NC=C(C=N1)OC | C6H8N2O3S
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | propane-1-sulfonic acid {6-[2-(5-methoxy-pyrimidin-2-yloxy)-ethoxy]-5-p-tolyl-pyrimidin-4-yl}-amide | 61 mg | COC=1C=NC(=NC1)OCCOC1=C(C(=NC=N1)NS(=O)(=O)CCC)C1=CC=C(C=C1)C | C21H25N5O5S
